US04985444
3-(3-Carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (120 mg) was melted by an electric hot plate at 370° C. This was dissolved in a mixture of chloroform (26 ml) and methanol (13 ml), and silica gel (1 g) and charcoal (0.2 g) were added thereto and then this mixture was filtered. The solvent of the filtrate was removed and chromatographed on silica gel (3 g) with a mixture of chloroform, methanol and triethylamine (200:10:1). The fractions containing the object compound were combined and evaporated in vacuo and recrystallized from ethyl acetate to give 3-(2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (30 mg).

reactant | 3-(3-Carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 120 mg | C(=O)(O)C=1C(NC=C(C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C19H13N3O3
reactant | charcoal | 0.2 g | C | CH4
solvent | chloroform | 26 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 13 ml | CO | CH4O
product | 3-(2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 30 mg | O=C1NC=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H13N3O
